US05225402
To grinded aluminum chloride (26 g) are added chlorobenzene (26 ml) and N-(α-methylcinnamoyl)-N-(1-benzyl-4-piperidinyl)aniline (8.7 g) and the mixture is heated at 110° C. for 1 hour. After cooling, the reaction mixture is poured into ice-water and made alkaline with an aqueous sodium hydroxide solution. After extraction with dichloromethane, the extract is concentrated and the resulting residue is purified by silica gel column chromatography (eluent; methylene chloride). The purified substance is converted into hydrochloride and then recrystallized from ethanol/water to give 1-(1-benzyl-4-piperidinyl)-3-methylcarbostyril hydrochloride (5.8 g) as colorless needles, m.p. 274°-276° C.

reactant | aluminum chloride | 26 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | N-(α-methylcinnamoyl)-N-(1-benzyl-4-piperidinyl)aniline | 8.7 g | CC(C(=O)N(C1=CC=CC=C1)C1CCN(CC1)CC1=CC=CC=C1)=CC1=CC=CC=C1 | C28H30N2O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | chlorobenzene | 26 ml | ClC1=CC=CC=C1 | C6H5Cl
product | 1-(1-benzyl-4-piperidinyl)-3-methylcarbostyril hydrochloride | 5.8 g | Cl.C(C1=CC=CC=C1)N1CCC(CC1)N1C(=O)C(=CC2=CC=CC=C12)C | InChI=1S/C22H24N2O.ClH/c1-17-15-19-9-5-6-10-21(19)24(22(17)25)20-11-13-23(14-12-20)16-18-7-3-2-4-8-18;/h2-10,15,20H,11-14,16H2,1H3;1H
